US05677464
Metanesulfonyl chloride (2.12 g) and triethylamine (1.87 g) were added dropwise to an ice-cooled solution of 1-[(1R,2S)-2-(2-fluorophenyl)-2,3-dihydroxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2-imidazolidinone (5.85 g) in ethyl acetate (60 ml). The resulting mixture was stirred for 20 minutes at 0° C. and then washed with water (20 ml×2) and an aqueous sodium chloride solution (20 ml) successively. The organic layer was dried over magnesium sulfate and evaporated in vacuo to give 1-[(1R,2S)-2-(2-fluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2-imidazolidinone (6.8 g) as a colorless oil. This compound (6.8 g) was dissolved in N,N-dimethylformamide (130 ml). 1H-1,2,4-Triazole (4.24 g) and potassium carbonate (16.9 g) were added to the solution. The resulting mixture was heated at 80° C. for 5 hours, and then concentrated in vacuo. The residue was diluted with ethyl acetate (200 ml) and the mixture was washed with water (40 ml×2), 1N-hydrochloric acid (40 ml×2) and an aqueous sodium chloride solution successively. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by chromatography on silica gel (100 g; eluent, hexane-ethyl acetate, 2:1 to 1:2) followed by recrystallization from a mixture of ethyl acetate and diisopropyl ether to give 1-[(1R,2R)-2-(2-fluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2-imidazolidinone (4.4 g, 68%) as colorless prisms.

reactant | Metanesulfonyl chloride | 2.12 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.87 g | C(C)N(CC)CC | C6H15N
reactant | 1-[(1R,2S)-2-(2-fluorophenyl)-2,3-dihydroxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2-imidazolidinone | 5.85 g | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(CC1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)(CO)O | C22H23F5N2O4
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(1R,2S)-2-(2-fluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2-imidazolidinone | 6.8 g | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(CC1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)(COS(=O)(=O)C)O | C23H25F5N2O6S
